US05753664
2-Mercapto-3-methyl-6,7-dihydro-5H-cyclopenta[d]-pyrimidin-4-one
Five (5) drops of concentrated sulfuric acid were added to a mixture of 2-ethoxycarbonylcyclopentanone (31.2 g) and methylthiourea (18.0 g) and the mixture was heated at 100° C. for 2 days. The resulting precipitate was collected by filtration, rinsed with ethanol, and dried to provide the title compound as colorless powder (10.2 g).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-ethoxycarbonylcyclopentanone | 31.2 g | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
reactant | methylthiourea | 18.0 g | CNC(=S)N | C2H6N2S
product | 2-Mercapto-3-methyl-6,7-dihydro-5H-cyclopenta[d]-pyrimidin-4-one | 10.2 g | SC=1N(C(C2=C(N1)CCC2)=O)C | C8H10N2OS
